US08030311B2
Step 7.4: [4-(3-Nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester
A mixture of 2-chloro-3-nitro-pyridine (5.0 g, 31.4 mmol), (4-amino-phenyl)-acetic acid (4.75 g 31.4 mmol), and a 4 N solution of HCl in dioxane (7.85 mL, 31.4 mmol) in MeOH/dioxane (100 mL; 1:1, v/v) is stirred and refluxed for 30 h. (4-Amino-phenyl)-acetic acid (4.75 g 31.4 mmol) is added and the reaction mixture is stirred and refluxed for additional 18 h. The reaction mixture is allowed to cool to rt and concentrated in vacuo. The residue is dissolved in EtOAc, washed with a saturated aqueous solution of NaHCO3, dried (Na2SO4), filtered and concentrated. Purification of the crude product by silica gel column chromatography (Hexane/EtOAc, 85:15→60:40) provides the title compound as a red solid: ES-MS: 288.0 [M+H]+; tR=4.71 min (System 1); Rf=0.20 (Hexane/EtOAc, 4:1).

reactant | 2-chloro-3-nitro-pyridine | 31.4 mmol, 5.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | (4-amino-phenyl)-acetic acid | 31.4 mmol, 4.75 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | HCl | Cl | ClH
reactant | dioxane | 31.4 mmol, 7.85 mL | O1CCOCC1 | C4H8O2
reactant | (4-Amino-phenyl)-acetic acid | 31.4 mmol, 4.75 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
solvent | MeOH dioxane | CO.O1CCOCC1
product | [4-(3-Nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-])=O | C14H13N3O4
